US07067517B2
To a stirred solution of 2-bromo-5-methylpyridine (3.45 g, 20 mmol) in THF (10 mL) was added dropwise 1.6 M solution in hexanes n-BuLi (12 mL, 19.2 mmol) over a 10-min period at −78° C. The mixture was stirred at −78° C. for 2 min before 4-trimethylsilyloxybenzaldehyde (4.2 g, 21.6 mmol) dissolved in THF (10 mL) was added. The mixture was allowed to warm to −40° C. and quenched with water. The pH of the aqueous phase was adjusted to 7 which causes precipitation of 4-[hydroxy-(5-methyl-pyridin-2-yl)-methyl]phenol. This was isolated by filtration to give 1.13 g (27%) of 4-[hydroxy-(5-methyl-pyridin-2-yl)-methyl]phenol as crystals. This intermediate was dissolved in CH2Cl2 (15 mL) and stirred with triethylsilane (4 mL) and TFA (5 mL) for 16 h at 50° C. Evaporation gave 99% of 4-(5-methyl-pyridin-2-ylmethyl)phenol as a hygroscopic solid. This was carbamoylated using general procedure 1 (CH2Cl2 was used as solvent and N-phenyl-N-methyl carbamoyl chlorid) to give 99% of the title product as its crystalline hydrochloride after purification by flash chromatography (Quad flash 12, EtOAc-heptane) and treatment with HCl in Et2O.

reactant | 2-bromo-5-methylpyridine | 20 mmol, 3.45 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 4-trimethylsilyloxybenzaldehyde | 21.6 mmol, 4.2 g | C[Si](OC1=CC=C(C=O)C=C1)(C)C | C10H14O2Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[hydroxy-(5-methyl-pyridin-2-yl)-methyl]phenol | 1.13 g, 27% | OC(C1=CC=C(C=C1)O)C1=NC=C(C=C1)C | C13H13NO2
